data/mechanism_extracts/GreenChem/10.1039_d5gc00295h.json
{"doi": "10.1039_d5gc00295h", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrocatalytic reductive head-to-head homo-coupling of styrenes to 1,4-diphenylbutanes via cathodically generated alkene radical anions", "mechanism_family": ["radical_cathodic", "radical_anion", "direct_SET", "paired_electrolysis"], "electrochemical_role": "Cathodic reduction of styrene (and/or of nBuI from nBu4NI decomposition) generates an alkene radical anion; the anode oxidizes iodide back to I2, closing the redox cycle", "key_intermediates": [{"name": "nBu-I derived radical anion (A)", "smiles": null, "role": "transient"}, {"name": "styrene radical anion (B)", "smiles": null, "role": "reactive"}, {"name": "coupled distonic radical anion (C, PhCH(-)-CH2-CH2-C(•)HPh)", "smiles": null, "role": "reactive"}, {"name": "benzyl radical D (after protonation of C by H2O)", "smiles": null, "role": "reactive"}, {"name": "benzyl carbanion E (after second cathodic reduction)", "smiles": null, "role": "reactive"}, {"name": "1,4-diphenylbutane (T.M., 2a)", "smiles": "c1ccc(CCCCc2ccccc2)cc1", "role": "reactive"}, {"name": "nBu3N (from nBu4NI decomposition)", "smiles": "CCCCN(CCCC)CCCC", "role": "reactive"}, {"name": "nBu3N radical cation (HAT donor in path b)", "smiles": null, "role": "transient"}], "electron_flow": "At the cathode, styrene is directly reduced (or via SET from a cathodically generated nBuI radical anion) to a radical anion B; B adds to another styrene to give coupled radical anion C, which is protonated by trace water to a benzyl radical D, reduced again at the cathode to carbanion E, and finally protonated to give 1,4-diphenylbutane; iodide is reoxidized at the anode to I2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction shut down (only trace product), supporting radical intermediate"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction shut down (trace product)"}, {"name": "CBr4", "smiles": "BrC(Br)(Br)Br", "purpose": "radical_trap", "observation": "Yield dropped to 17%, consistent with radical pathway"}, {"name": "DMF-d7", "smiles": "[2H]C(=O)N(C([2H])([2H])[2H])C([2H])([2H])[2H]", "purpose": "isotope_label", "observation": "No D incorporation in product (27% yield, 0% D); DMF is not the H source"}, {"name": "D2O (1 equiv) in anhydrous DMF", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "63% D incorporation at benzylic positions, identifying water as a major proton source"}, {"name": "anhydrous DMF (no added H2O)", "smiles": "CN(C)C=O", "purpose": "other", "observation": "Yield decreased sharply to 25%, indicating water is needed as proton source; residual H must come from nBu4NI"}, {"name": "CH3I", "smiles": "CI", "purpose": "intermediate_trap", "observation": "Benzyl monomethylated product detected (56%), trapping a benzyl carbanion intermediate"}, {"name": "KI instead of nBu4NI", "smiles": "[K+].[I-]", "purpose": "other", "observation": "Only trace product; iodide alone insufficient — nBu3N component of nBu4NI is critical"}, {"name": "KI + nBu3N (0.5 equiv)", "smiles": null, "purpose": "intermediate_trap", "observation": "Restored 30% yield, confirming role of nBu3N (HAT pathway)"}, {"name": "Cyclic voltammetry of styrene / nBu4NI", "smiles": null, "purpose": "redox_probe", "observation": "nBu4NI reduces at -0.804 V; styrene + nBu4NI shows enhanced reduction current at -0.776 V with peak position essentially unchanged from styrene alone, indicating direct cathodic reduction of styrene promoted by nBu4NI"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "product_isotope_distribution", "other"], "evidence_strength": "strong", "notes": "Two parallel cathodic initiation pathways are proposed: (i) main pathway — direct cathodic reduction of styrene to radical anion B (supported by CV); (ii) minor pathway — cathodic reduction of nBuI (from nBu4NI decomposition to nBuI + nBu3N, detected by LC-MS/1H NMR) to radical anion A, which then SETs to styrene. Final protonation can occur via H2O (path a, supported by D2O labeling) or via HAT from nBu3N radical cation to radical anion C (path b). At the anode, I- is oxidized to I2 (1/2 I2), making the process paired electrolysis without external oxidant/reductant or metal catalyst."}
